US07297698B2
(2R,5S)-4-(4-Cyano-3-methoxyphenyl)-2,5-dimethyl-N-(6-trifluoromethyl-3-pyridyl)piperazine-1-carboxamide
Into 5 ml of toluene were dissolved 500 mg of methyl 6-(trifluoromethyl)pyridin-3-ylcarbamate and 557 mg of 4-[(2S,5R)-2,5-dimethylpiperazin-1-yl]-2-methoxybenzonitrile, and then 0.03 ml of DBU was added thereto, followed by heating to 100° C. and 8 hours of stirring. The reaction solution was concentrated and the residue was subjected to silica gel column chromatography to obtain 450 mg of the title compound from an eluate using chloroform-methanol (96:4, v/v).

reactant | methyl 6-(trifluoromethyl)pyridin-3-ylcarbamate | 500 mg | FC(C1=CC=C(C=N1)NC(OC)=O)(F)F | C8H7F3N2O2
reactant | 4-[(2S,5R)-2,5-dimethylpiperazin-1-yl]-2-methoxybenzonitrile | 557 mg | C[C@@H]1N(C[C@H](NC1)C)C1=CC(=C(C#N)C=C1)OC | C14H19N3O
reactant | DBU | 0.03 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | (2R,5S)-4-(4-Cyano-3-methoxyphenyl)-2,5-dimethyl-N-(6-trifluoromethyl-3-pyridyl)piperazine-1-carboxamide | 450 mg | C(#N)C1=C(C=C(C=C1)N1C[C@H](N(C[C@@H]1C)C(=O)NC=1C=NC(=CC1)C(F)(F)F)C)OC | C21H22F3N5O2
